US07932259B2
To a suspension of 2-amino-1-(4-bromo-2,6-dimethylphenyl)-4-methyl-5-oxo-4,5-dihydro-1H-pyrrole-3-carbonitrile (100 g) in acetic acid (100 mL) was added acetic anhydride (38.3 g) and the mixture was heated at reflux for 8 hours. After cooling to room temperature, the solvent was concentrated under reduced pressure, and water was added and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and the residue was crystallized from a mixture of ethyl acetate and diisopropylether to give 7-(4-bromo-2,6-dimethylphenyl)-4-hydroxy-2,5-dimethyl-5,7-dihydropyrrolo[2,3-d]pyrimidin-6-one (56.6 g).

reactant | 2-amino-1-(4-bromo-2,6-dimethylphenyl)-4-methyl-5-oxo-4,5-dihydro-1H-pyrrole-3-carbonitrile | 100 g | NC=1N(C(C(C1C#N)C)=O)C1=C(C=C(C=C1C)Br)C | C14H14BrN3O
reactant | acetic anhydride | 38.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 7-(4-bromo-2,6-dimethylphenyl)-4-hydroxy-2,5-dimethyl-5,7-dihydropyrrolo[2,3-d]pyrimidin-6-one | 56.6 g | BrC1=CC(=C(C(=C1)C)N1C(C(C2=C1N=C(N=C2O)C)C)=O)C | C16H16BrN3O2
